US07923450B2
a) 2-(3-Methoxy-phenyl)-2-propyl-cyclohexanone
A solution of 2-(3-methoxy-phenyl)-cyclohexanone (2.04 g, 10.0 mmol) in N,N-dimethylformamide (10 mL) was added over 10 min to a mixture of sodium hydride (0.29 g, 12.0 mmol) in N,N-dimethylformamide (4 mL), the temperature being kept below 30° C. The reaction mixture was stirred at 20-25° C. for 2 h. A solution of 1-iodo-propane (1.17 mL, 12.0 mmol) in N,N-dimethylformamide (2 mL) was added over 10 min at 20-25° C. The mixture was stirred for 18 h, and then, ethanol (2 mL) was slowly added. The mixture was stirred for 0.5 h and then poured onto ice-water. The mixture was extracted with dichloromethane. The organic layer was separated, washed with water, and dried over sodium sulfate. Solvents were removed under reduced pressure and the remaining oil was purified by column chromatography on silica gel using heptane/diethyl ether (4:1, v/v) as eluent to give the title compound (0.74 g, ca. 30%) as pale-yellow oil. MS ISP (m/e): 247.3 [(M+H)+].

reactant | 2-(3-methoxy-phenyl)-cyclohexanone | 10.0 mmol, 2.04 g | COC=1C=C(C=CC1)C1C(CCCC1)=O | C13H16O2
reactant | sodium hydride | 12.0 mmol, 0.29 g | [H-].[Na+]
reactant | 1-iodo-propane | 12.0 mmol, 1.17 mL | ICCC | C3H7I
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-(3-Methoxy-phenyl)-2-propyl-cyclohexanone | 0.74 g, ca. 30% | COC=1C=C(C=CC1)C1(C(CCCC1)=O)CCC | C16H22O2
